US04336263
(α) 9a-(3-Methoxyphenyl)-perhydro-1,4-benzoxazepine
16 g (0.045 mole) of 4-benzyl-9a-(3-methoxyphenyl)-perhydro-1,4-benzoxazepine (boiling point 240°-260° C./0.07 mbar), prepared by methods similar to that of Example 1, are hydrogenated in the conventional manner with a palladium/charcoal catalyst (5 g of 5% strength Pd on charcoal) in glacial acetic acid; after filtration and distillation, 8.8 g (75% of theory) of 9a-(3-methoxyphenyl)-perhydro-1,4-benzoxazepine, of boiling point 180°-185° C./0.07 mbar, are obtained.

reactant | 4-benzyl-9a-(3-methoxyphenyl)-perhydro-1,4-benzoxazepine | 0.045 mole, 16 g | C(C1=CC=CC=C1)N1CCOC2(C(C1)CCCC2)C2=CC(=CC=C2)OC | C23H29NO2
catalyst | palladium/charcoal | 5 g | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 9a-(3-Methoxyphenyl)-perhydro-1,4-benzoxazepine | COC=1C=C(C=CC1)C12C(CNCCO1)CCCC2 | C16H23NO2
